// File: invx1_pcell.spi
// Created: Sun Mar 15 12:49:42 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/invx1_pcell.pex.spice"
subckt invx1_pcell (  )
// 
M0_noxref ( N_noxref_4_M0_noxref_d N_noxref_3_M0_noxref_g noxref_1 noxref_45 ) \
 NMOS l=0.163346 w=2.31104 m=1
M1_noxref ( N_noxref_4_M1_noxref_d N_noxref_3_M1_noxref_g \
 N_noxref_2_M1_noxref_s noxref_43 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M2_noxref ( N_noxref_2_M2_noxref_d N_noxref_3_M2_noxref_g \
 N_noxref_4_M1_noxref_d noxref_43 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
c_17 ( noxref_1 0 ) capacitor c=0.64322f //x=0.495 //y=0.37
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/invx1_pcell.pxi.spice"
// 
ends INVX1_PCELL
// 
// 
